US08957069B2
1-(4-Ethoxyphenyl)-4-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using 1-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (400 mg, 1.38 mmol) synthesized in Reference example 96 and 1-bromo-4-ethoxybenzene (416 mg, 2.07 mmol), the reaction was carried out in the same manner as Reference example 59 to synthesize the title compound 123 mg (yield 22%). That is, sodium t-butoxide (398 mg, 4.14 mmol) was added to a mixture of toluene (30 mL) containing 1-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (400 mg, 1.38 mmol), 1-bromo-4-ethoxybenzene (416 mg, 2.07 mmol), palladium acetate (15 mg, 0.069 mmol) and BINAP (129 mg, 0.207 mmol), and the mixture was stirred under argon atmosphere and under heated reflux for 12 hours. After cooled to room temperature, saturated saline was added to the reaction solution, and extraction was performed using ethyl acetate. The organic layer was dried using anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel chromatography (hexane-ethyl acetate 100:0-80:20). Crystallization was performed using ethyl acetate-hexane to give 123 mg of the title compound as a colorless crystal (yield: 22%). Melting point was 152 to 154° C.

reactant | 1-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 1.38 mmol, 400 mg | COC1=C(C(=C(C=2CC(OC21)(C)C)C)N2CCNCC2)C | C17H26N2O2
reactant | 1-bromo-4-ethoxybenzene | 2.07 mmol, 416 mg | BrC1=CC=C(C=C1)OCC | C8H9BrO
product | 1-(4-Ethoxyphenyl)-4-(7-methoxy-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 123 mg, yield 22% | C(C)OC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)(C)C)C1C)OC)C | C25H34N2O3
